US07598393B2
Step A. 1-Chloro-4-(ethylthio)benzene
The title compound was prepared according to the procedure described in Step A of Example 1 from 4,4′-dichlorodiphenyl disulfide and ethyl iodide.

reactant | 4,4′-dichlorodiphenyl disulfide | C1=CC(=CC=C1SSC2=CC=C(C=C2)Cl)Cl | C12H8Cl2S2
reactant | ethyl iodide | C(C)I | C2H5I
product | 1-Chloro-4-(ethylthio)benzene | ClC1=CC=C(C=C1)SCC | C8H9ClS
